US05059691
To a solution of 17.4 g of benzoylacetone in 100 ml of ethyl acetate is added a solution of 7.35 g of pyrrolidine in 50 ml of ethyl acetate. The reaction mixture is stirred at room temperature for 16 hours. The precipitated compound is collected by filtration to give 20.30 g of 3-(1-pyrrolidinyl)crotonophenone.

reactant | benzoylacetone | 17.4 g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | pyrrolidine | 7.35 g | N1CCCC1 | C4H9N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(1-pyrrolidinyl)crotonophenone | 20.30 g | N1(CCCC1)\C(=C/C(=O)C1=CC=CC=C1)\C | C14H17NO
